US06465513B1
Step B: Preparation of tert-Butyl 2-(3-Methoxycarbonyladamant-1-ylcarbonylamino)-3-[3-(2-methoxyphenyl)isoxazol-5-yl]propionate
To a solution of 5.25% aqueous NaOCl (1.33 g, 0.77 mmol) in CHCl3 at 0° C. was added a solution of 2-methoxybenzaldehyde oxime (0.77 mmol, 0.116 g) dropwise and tert-butyl 2-(3-methoxycarbonyladamant-1-ylcarbonylamino)pent4-ynoate (300 mg, 0.77 mmol) and one drop of Et3N. After addition, the reaction mixture was allowed to warm up to room temperature and stirred overnight. The solvent was evaporated under reduced pressure and the crude product was purified on a prep plate (silica gel; EtOAc/hexanes, 2:3) to afford the title compound.

reactant | NaOCl | 0.77 mmol, 1.33 g | [O-]Cl.[Na+]
reactant | 2-methoxybenzaldehyde oxime | 0.77 mmol, 0.116 g | COC1=C(C=NO)C=CC=C1 | C8H9NO2
reactant | tert-butyl 2-(3-methoxycarbonyladamant-1-ylcarbonylamino)pent4-ynoate | 0.77 mmol, 300 mg | COC(=O)C12CC3(CC(CC(C1)C3)C2)C(=O)NC(C(=O)OC(C)(C)C)CC#C | C22H31NO5
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
catalyst | Et3N | one drop | CCN(CC)CC | C6H15N
product | tert-Butyl 2-(3-Methoxycarbonyladamant-1-ylcarbonylamino)-3-[3-(2-methoxyphenyl)isoxazol-5-yl]propionate | COC(=O)C12CC3(CC(CC(C1)C3)C2)C(=O)NC(C(=O)OC(C)(C)C)CC2=CC(=NO2)C2=C(C=CC=C2)OC | C30H38N2O7
